US04734415
6-[4-(4,5-Dihydro-2-thiazolyl)phenyl]-4,5-dihydro-3(2H)-pyridazinone
A solution of 3.5 g of 4-(1,6-dihydro-6-oxo-3-pyridazinyl)benzenecarbothioamide, 3.1 g of 1,2-dibromoethane in 75 ml of DMF containing 4.2 g of K2CO3 is heated on a steambath for three hours. The inorganic salts are filtered and the filtrate is evaporated under reduced pressure. The residue is crystallized from ethanol/tetrahydrofuran to yield 1.2 g of the product, 6-[4-(4,5-dihydro-2-thiazolyl)phenyl]-4,5-dihydro3(2H)-pyridazinone mp 236°-238° C.

reactant | 4-(1,6-dihydro-6-oxo-3-pyridazinyl)benzenecarbothioamide | 3.5 g | O=C1C=CC(=NN1)C1=CC=C(C=C1)C(N)=S | C11H9N3OS
reactant | 1,2-dibromoethane | 3.1 g | BrCCBr | C2H4Br2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 75 ml, 4.2 g | CN(C)C=O | C3H7NO
product | 6-[4-(4,5-Dihydro-2-thiazolyl)phenyl]-4,5-dihydro-3(2H)-pyridazinone | 1.2 g | S1C(=NCC1)C1=CC=C(C=C1)C=1CCC(NN1)=O | C13H13N3OS
